US08124629B2
A suspension of gold(III) bromide (38 mg, 0.087 mmol), 4-oxo-butyric acid ethyl ester (377 mg, 2.9 mmol) and 4-(2-formyl-phenylethynyl)-N,N-dimethyl-benzenesulfonamide (454 mg, 1.45 mmol) in anhydrous dioxane (10 mL) was heated at 100° C. for 4 hours. After being cooled to room temperature, the mixture was treated with ethyl acetate, and then washed with water. The collected organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (RediSep® Flash column, 230-400 mesh, 25-60% ethyl acetate in hexane) gave [4-(4-dimethylsulfamoyl-benzoyl)-naphthalen-2-yl]-acetic acid ethyl ester (180 mg, 29%). MS (ESI+) cald. for C23H23NO5S [(M+H)+] 425, obsd. 426.

reactant | 4-oxo-butyric acid ethyl ester | 2.9 mmol, 377 mg | C(C)OC(CCC=O)=O | C6H10O3
reactant | 4-(2-formyl-phenylethynyl)-N,N-dimethyl-benzenesulfonamide | 1.45 mmol, 454 mg | C(=O)C1=C(C=CC=C1)C#CC1=CC=C(C=C1)S(=O)(=O)N(C)C | C17H15NO3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | gold(III) bromide | 0.087 mmol, 38 mg | [Au](Br)(Br)Br
product | [4-(4-dimethylsulfamoyl-benzoyl)-naphthalen-2-yl]-acetic acid ethyl ester | 180 mg, 29% | C(C)OC(CC1=CC2=CC=CC=C2C(=C1)C(C1=CC=C(C=C1)S(N(C)C)(=O)=O)=O)=O | C23H23NO5S
